US04127673
A solution of 12 grams (0.1 mole) of phenylisocyanate in 50 ml of hexane was added dropwise to 21 grams (0.1 mole) of N-4-chlorobenzyl-N-cyclopentylamine in 400 ml of hexane under cooling and stirring conditions. After the addition, the temperature of the reaction mixture was gradually raised, and the solution was then stirred at 50° C. for about 7 hours. The mixture was cooled and filtered. The residue was recrystallized from a mixed solvent of hexane-ethyl alcohol. 31 grams of N-4-chlorobenzyl-N-cyclopentyl-N'-phenylurea were obtained. Yield: 95%. Melting point: 129°-134° C.

reactant | phenylisocyanate | 0.1 mole, 12 grams | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-4-chlorobenzyl-N-cyclopentylamine | 0.1 mole, 21 grams | ClC1=CC=C(CNC2CCCC2)C=C1 | C12H16ClN
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | hexane | 400 ml | CCCCCC | C6H14
product | N-4-chlorobenzyl-N-cyclopentyl-N'-phenylurea | 31 grams, Yield: 95% | ClC1=CC=C(CN(C(=O)NC2=CC=CC=C2)C2CCCC2)C=C1 | C19H21ClN2O
